US07968720B2
4-[4-(tert-Butyl-dimethyl-silanyloxy)-phenyl]-5,6-dihydro-2H-pyridine-1,3-dicarboxylic Acid 1-tert-butyl Ester 3-methyl Ester (B1)
BuLi (1.6M in hexanes, 27.0 mL, 43.1 mmol) was added to a sol. of (4-bromophenoxy)-tert-butyldimethylsilane (12.4 g, 43.1 mmol) in THF (300 mL) at −78° C. The mixture was stirred for 30 min at −78° C., and ZnCl2 (1M in THF, 52.4 mL, 52.4 mmol) was added. The mixture was allowed to warm to rt, and a sol. of 4-trifluoromethanesulfonyloxy-5,6-dihydro-2H-pyridine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester (WO 2004/002957; 12.0 g, 30.8 mmol) in THF (20 mL) and Pd(PPh3)4 (1.00 g, 0.863 mmol) were added. The mixture was stirred at rt overnight, and aq. sat. NH4Cl was added. The mixture was extracted with EtOAc. The combined org. extracts were dried over MgSO4, filtered, and the solvents were removed under reduced pressure. Purification of the crude by FC (EtOAc/heptane 1:9→1:1) yielded the title compound (13.3 g, 96%). LC-MS: tR=1.20 min; ES+: 448.35.

reactant | BuLi | 43.1 mmol, 1.6M, 27.0 mL | [Li]CCCC
reactant | (4-bromophenoxy)-tert-butyldimethylsilane | 43.1 mmol, 12.4 g | BrC1=CC=C(O[Si](C)(C)C(C)(C)C)C=C1 | C12H19BrOSi
reactant | 4-trifluoromethanesulfonyloxy-5,6-dihydro-2H-pyridine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester | 30.8 mmol, 12.0 g | COC(=O)C=1CN(CCC1OS(=O)(=O)C(F)(F)F)C(=O)OC(C)(C)C | C13H18F3NO7S
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
catalyst | ZnCl2 | 52.4 mmol, 1M, 52.4 mL | [Cl-].[Cl-].[Zn+2]
catalyst | Pd(PPh3)4 | 0.863 mmol, 1.00 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-[4-(tert-Butyl-dimethyl-silanyloxy)-phenyl]-5,6-dihydro-2H-pyridine-1,3-dicarboxylic Acid 1-tert-butyl Ester 3-methyl Ester | 13.3 g, 96% | COC(=O)C=1CN(CCC1C1=CC=C(C=C1)O[Si](C)(C)C(C)(C)C)C(=O)OC(C)(C)C | C24H37NO5Si
